US06479487B1
1-(4-Methoxybenzyl)-4-piperidone is prepared from 4-piperidone and 4-methoxybenzyl chloride essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 1-(4-Methoxybenzyl)-4-piperidone | COC1=CC=C(CN2CCC(CC2)=O)C=C1 | C13H17NO2
